US08580794B2
8-chlorospiro[4.5]dec-7-ene-7-carbaldehyde
To a solution of N,N-dimethylformamide (2.81 mL) in dichloromethane (40 mL) was added dropwise POCl3 (2.78 mL) at 0° C. The reaction mixture was warmed up to room temperature and spiro[4.5]decan-8-one (3.95 g) in dichloromethane (5 mL) was added dropwise. The mixture was stirred overnight. The reaction was quenched with cold aqueous sodium acetate and the resulting mixture was extracted with ether and the organic layer was dried over Na2SO4, filtered, and concentrated to provide the title compound.

reactant | N,N-dimethylformamide | 2.81 mL | CN(C=O)C | C3H7NO
reactant | POCl3 | 2.78 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | spiro[4.5]decan-8-one | 3.95 g | C1CCCC12CCC(CC2)=O | C10H16O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 8-chlorospiro[4.5]dec-7-ene-7-carbaldehyde | ClC1=C(CC2(CCCC2)CC1)C=O | C11H15ClO
